US08222416B2
To a stirred solution of 2-(2-cyclopentyl-1-{3-fluoro-4-[1-methyl-1-(tetrahydro-pyran-2-yloxy)-ethyl]-phenyl}-ethyl)-1H-pyrrolo[2,3-b]pyridine-5-carboxylic acid (1.5 g, 3.04 mmol) in 95% ethanol (50 mL) was added cupric chloride dihydrate (52 mg, 0.3 mmol) at room temperature. The mixture was refluxed for 3 h and then cooled to room temperature. The resulting mixture was concentrated in vacuo. The residue was dissolved in ethyl acetate, washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. Purification using a Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded 2-{2-cyclopentyl-1-[3-fluoro-4-(1-hydroxy-1-methyl-ethyl)-phenyl]-ethyl}-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid (350 mg, 28.1%) as a light yellow solid: LC/MS m/e calcd for C24H27FN2O3 [M+H]+ 411.49, observed 410.9; 1H NMR (400 MHz, CD3OD) δ ppm 8.79 (br. s., 1H), 8.56 (br. s., 1H), 7.53-7.60 (m, 1H), 7.13 (br. s., 1H), 7.02 (d, J=12.1 Hz, 1H), 6.51 (br. s., 1H), 4.19 (br. s., 1H), 2.22 (br. s., 1H), 2.12 (br. s., 1H), 1.61-1.88 (m, 5H), 1.56 (br. s., 6H), 1.51 (br. s., 2H), 1.23 (br. s., 2H).

reactant | 2-(2-cyclopentyl-1-{3-fluoro-4-[1-methyl-1-(tetrahydro-pyran-2-yloxy)-ethyl]-phenyl}-ethyl)-1H-pyrrolo[2,3-b]pyridine-5-carboxylic acid | 3.04 mmol, 1.5 g | C1(CCCC1)CC(C1=CC(=C(C=C1)C(C)(OC1OCCCC1)C)F)C1=CC=2C(=NC=C(C2)C(=O)O)N1 | C29H35FN2O4
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 2-{2-cyclopentyl-1-[3-fluoro-4-(1-hydroxy-1-methyl-ethyl)-phenyl]-ethyl}-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid | 350 mg, 28.1% | C1(CCCC1)CC(C1=CC(=C(C=C1)C(C)(C)O)F)C1=CC=2C(=NC=C(C2)C(=O)O)N1 | C24H27FN2O3
